US06878713B2
Cyclopropylamine (10 g, 169.5 mmol) was added to the stirred solution of 1-carbethoxy-3-methyl-4-piperidone (7.0 g, 37.83 mmol) obtained as described in Preparation 1, in methanol (50 ml) and stirring was continued for 12 hr at ambient temperature. The resulting mixture was cooled at 0° C. and sodium cyanoborohydride (3.0 g, 46.0 mmol) was added to it. Cooling was removed after 10 min. and stirring was continued for 12 hr at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water, acidified with conc. HCl (pH 3˜4) and extracted with ethyl acetate to remove impurities. The aqueous layer was basified with 1 M sodium hydroxide solution (pH˜10) and extracted with ethyl acetate. Ethyl acetate extract was dried (Na2SO4) and concentrated to dryness to afford 1-carbethoxy4-cyclopropylamino-3-methylpiperidine. Yield 6.0 g (70%), C12H22N2O2, m/z 227 (M+1), PMR (CDCl3): 0.38 (m, 4H), 0.88 (dd, 3H), 1.28 (t, 3H), 1.54 (m, 1H), 2.06 (m, 2H), 2.32 (m, 1), 2.48 (m, 1H), 2.84 (m, 1H), 3.06 (m, 1H), 3.72 (m, 1H), 3.88-4.24 (m, 2H).

reactant | Cyclopropylamine | 169.5 mmol, 10 g | C1(CC1)N | C3H7N
reactant | 1-carbethoxy-3-methyl-4-piperidone | 37.83 mmol, 7.0 g | C(=O)(OCC)N1CC(C(CC1)=O)C | C9H15NO3
reactant | sodium cyanoborohydride | 46.0 mmol, 3.0 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-carbethoxy4-cyclopropylamino-3-methylpiperidine | C(=O)(OCC)N1CC(C(CC1)NC1CC1)C | C12H22N2O2
